US04107431
(a) Diphenylmethyl 3-(but-1-enyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate, cis- and trans-isomers.
Diphenylmethyl 3-(triphenylphosphoranylidenemethyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate (1.528 g., 2 mmole) was dissolved in a mixture of freshly distilled propionaldehyde (25 ml., 350 mmole) and dry methylene chloride (25 ml.). The solution was stirred at 25° for 16 hours, the solvent and residual propionaldehyde removed by rotary evaporation, and the residue dissolved in the methylene chloride (200 ml.). The resulting solution was washed successively with N-hydrochloric acid (200 ml.), 2N-aqueous sodium bicarbonate (200 ml.), water (200 ml.), brine (100 ml.), dried and evaporated to a yellow foam. This material was purified by column chromatography on Kieselgel. Combination of similar fractions (as judged by TLC) gave the title compound as pale yellow crystals (110 mg., 10%), RF 0.70, m.p. 156-158° (decomp.), [α]D - 10° (THF), λmax. 289 nm. (ε 8,700), inflexion at 235 nm. (ε14,600), νmax. (CHBr3) (--NH), 1782 (β-lactam), 1720 and 1230 (ester), 1684 and 1510 (--CONH--) cm. -1 ; the p.m.r. spectrum indicated that the compound was mainly the cis-isomer (with ca. 15% trans), with signals at τ 3.98 (--CH=CH.CH2CH3, d, J =11 Hz.), 4.23 (C(7)H, dd, J 5 and 9 Hz.), 4.61 (=CH.CH2CH3, complex m), 5.04 (C(6)H, d, J 5 Hz.), 6.6 and 6.83 (C(2) --CH2, AB-q,JAB 18 Hz.), 8.22 (--CH2CH3, complex m), 9.18 (--CH2CH3, methyl t, J 8 Hz.), [Found: C, 66.25; H, 5.2; N, 5.1; S, 11.6; C30H28N2O4S2 (544.7) requires C, 66.15; H, 5.2; N, 5.1; S, 11.8%].

reactant | Diphenylmethyl 3-(triphenylphosphoranylidenemethyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate | 2 mmole, 1.528 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C45H37N2O4PS2
reactant | propionaldehyde | 350 mmole, 25 ml | C(CC)=O | C3H6O
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl 3-(but-1-enyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate | 110 mg, 10% | C(=CCC)C=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C30H28N2O4S2
